US06645990B2
1-(2-Bromo-thiazol-4-yl)-3-[6-(2-piperidin-4-yl-ethoxy)-pyridin-2-yl]-urea
To a stirred solution of 4-(2-{6-[3-(2-bromo-thiazol-4-yl)-ureido]-pyridin-2-yloxy}-ethyl)-piperidine-1-carboxylic acid tert-butyl ester (285 mg, 0.54 mmol) in anhydrous CH2Cl2 (6 mL) at RT, under N2, TFA (1.5 mL) was added. After 1.5 h the solvent was evaporated in vacuo. The residue was carefully treated with a saturated solution of NaHCO3 (aq) (10 mL), the precipitate was filtered off, washed with Et2O (3×5 mL) and dried in a vacuum oven at 60° C. for 5 h to yield the title compound as a white amorphous solid. MS m/z: 426.2, 428.2 (M+H). Calc'd. for C16H20BrN5O2S-426.33.

reactant | 4-(2-{6-[3-(2-bromo-thiazol-4-yl)-ureido]-pyridin-2-yloxy}-ethyl)-piperidine-1-carboxylic acid tert-butyl ester | 0.54 mmol, 285 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CCOC1=NC(=CC=C1)NC(=O)NC=1N=C(SC1)Br | C21H28BrN5O4S
reactant | TFA | 1.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
product | 1-(2-Bromo-thiazol-4-yl)-3-[6-(2-piperidin-4-yl-ethoxy)-pyridin-2-yl]-urea | BrC=1SC=C(N1)NC(=O)NC1=NC(=CC=C1)OCCC1CCNCC1 | C16H20BrN5O2S
